US05543520
To a solution of 100 mg (0.61 mmol) of 3-dimethylamino-(1H-pyrrol-2-yl)2-propen-1-one [described in EP-A-0 233 461]in 4 ml of isobutanol are added 185 mg (0.60 mmol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate. Following the addition of 32.5 mg (0.81 mmol) of sodium hydroxide, the reaction mixture is stirred for 3 hours at 110° C. The suspension is concentrated under reduced pressure, the residue is dissolved in 4 ml of methylene chloride/tetrahydrofuran (1:1 ), and the solution is extracted with 2.4 ml of water. The organic phase is dried over sodium sulfate and concentrated on a rotovap. Recrystallisation from diethyl ether/tetrahydrofuran gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-(1H-pyrrol-2-yl)-2-pyrimidine-amine; FAB-MS:353 (M+ +1 ), m.p. 142-143, Rf =0.83 (methylene chloride:methanol=9:1).

reactant | 3-dimethylamino-(1H-pyrrol-2-yl)2-propen-1-one | 0.61 mmol, 100 mg | CN(C=CC(=O)C=1NC=CC1)C | C9H12N2O
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 0.60 mmol, 185 mg | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | sodium hydroxide | 0.81 mmol, 32.5 mg | [OH-].[Na+]
solvent | isobutanol | C(C(C)C)O | C4H10O
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-(1H-pyrrol-2-yl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1NC=CC1)F | C16H12F4N4O
